US08404859B2
Preparation of 3-Cyano-5-hydroxymethyl-thiophene-2-carboxylic acid methyl ester
A mixture of 5-Bromomethyl-3-cyano-thiophene-2-carboxylic acid methyl ester (0.89 g, 3.42 mmol) and water (15 ml) in THF (2 ml) was heated at 70° C. for 2 d. The reaction mixture was cooled. The reaction mixture was poured into EtOAc (50 ml), washed with brine, dried over sodium sulfate, filtered and evaporated. The residue was purified by column (0-40% EtOAc in hexane) to give 0.1114 g (17%) yellow solid product.

reactant | 5-Bromomethyl-3-cyano-thiophene-2-carboxylic acid methyl ester | 3.42 mmol, 0.89 g | COC(=O)C=1SC(=CC1C#N)CBr | C8H6BrNO2S
reactant | water | 15 ml | O | H2O
reactant | EtOAc | 50 ml | CCOC(=O)C | C4H8O2
solvent | THF | 2 ml | C1CCOC1 | C4H8O
product | 3-Cyano-5-hydroxymethyl-thiophene-2-carboxylic acid methyl ester | 0.1114 g, 17% | COC(=O)C=1SC(=CC1C#N)CO | C8H7NO3S
